US08877794B2
N-(3-{2-Amino-1-[1-(4-chlorophenyl)cyclobutyl]ethyl}benzyl)-N-methylpropane-1-sulfonamide hydrochloride
tert-Butyl {2-[1-(4-chlorophenyl)cyclobutyl]-2-(3-{[methyl(propylsulfonyl)amino]methyl}phenyl)ethyl}carbamate (20.9 mg, 0.039 mmol) was treated with hydrochloric acid in isopropanol (5 M, 1 ml) at room temperature. The solvent was evaporated in vacuo. Water (1 ml) was added and the product was freeze-dried. Yield: 16 mg (0.034 mmol, 87%)

reactant | tert-Butyl {2-[1-(4-chlorophenyl)cyclobutyl]-2-(3-{[methyl(propylsulfonyl)amino]methyl}phenyl)ethyl}carbamate | 0.039 mmol, 20.9 mg | ClC1=CC=C(C=C1)C1(CCC1)C(CNC(OC(C)(C)C)=O)C1=CC(=CC=C1)CN(S(=O)(=O)CCC)C | C28H39ClN2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 5 M, 1 ml | C(C)(C)O | C3H8O
product | N-(3-{2-Amino-1-[1-(4-chlorophenyl)cyclobutyl]ethyl}benzyl)-N-methylpropane-1-sulfonamide hydrochloride | Cl.NCC(C1(CCC1)C1=CC=C(C=C1)Cl)C=1C=C(CN(S(=O)(=O)CCC)C)C=CC1 | InChI=1S/C23H31ClN2O2S.ClH/c1-3-14-29(27,28)26(2)17-18-6-4-7-19(15-18)22(16-25)23(12-5-13-23)20-8-10-21(24)11-9-20;/h4,6-11,15,22H,3,5,12-14,16-17,25H2,1-2H3;1H
